* Z:\mnt\design.r\spice\examples\Electrometer.asc
V1 +V 0 15
L§T3a N001 0 25µ
L§T3b 0 N012 25µ
L§T3c N002 0 25µ
R1 N002 0 500
R2 N003 N002 25K
L§T1b 0 N024 100µ
L§T1c N032 0 100µ
L§T1a 0 N026 100µ
J§Q1 N024 N006 N028 2N4416
J§Q2 N032 N009 N028 2N4416
J§Q3 N024 N009 0 2N4416
J§Q4 N032 N006 0 2N4416
V2 -V 0 -15
I1 0 IN PULSE(0 1000p 1m 1u 1u 5m 10m)
R3 N033 IN 100G
C1 N033 IN .015p
L§T2a N007 IN 50µ
L§T2b IN N008 50µ
L§T2c 0 N011 50µ
C2 0 N002 4n
C3 N020 N013 1000p
XU1 0 N013 +V -V OUT LT1001
J§Q5 N018 0 N011 2N4416
Q6 +V N018 N022 0 2N3904
R4 N022 -V 4.99K
C4 N023 N022 .01µ
R5 N023 0 1K
Q7 N016 N023 N029 0 2N3904
R6 N029 -V 4.75K
C5 N029 0 .01µ
R7 +V N016 2.5K
Q8 N019 N016 N015 0 2N3906
R8 +V N015 1.98K
C6 N015 0 .01µ
R9 N031 -V 4.22K
Q9 +V N019 N021 0 2N3904
C7 0 N011 2n
R10 +V N018 1.2K
Q10 -V N031 N030 0 2N3906
D1 N019 N027 1N4148
D2 N027 N031 1N4148
R11 N021 N025 49.9
R12 N025 N030 49.9
C8 N026 P001 .1µ
R13 N036 IN 10Meg
C9 N036 IN 2.5p
R14 N037 IN 1Meg
R15 N038 IN 100K
C10 N037 IN 75p
C11 N038 IN 100p
C12 N017 N013 .05µ
C13 N014 N013 .1µ
J3 N012 N007 N012 2N5432
J1 N007 N001 N007 2N5432
J4 N008 N012 N008 2N5432
J2 N001 N008 N001 2N5432
R16 OUT IN 10G
C14 OUT IN .04p
C15 OUT N013 25p
C16 IN 0 100p
R17 N034 IN 1G
C17 N034 IN .2p
R18 N035 IN 100Meg
C18 N035 IN .4p
R19 N039 IN 10K
C19 N039 IN 50p
C20 0 N026 1n
A1 N006 0 N010 0 0 N006 N009 0 DFLOP Vhigh=0 Vlow=-5 Trise=10n
V3 N010 0 pulse(-5 0 0 10n 10n .5u 1u)
C21 N013 0 .01µ
R20 N013 N028 100
R21 P001 N025 500
C22 N005 0 1n
R22 N006 N005 100
C23 N004 0 500p
R23 N005 N004 200
C24 N003 0 250p
R24 N004 N003 400
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 15m
K3 T3a T3b T3c 1.
K1 T1a T1b T1c 1.
K2 T2a T2b T2c 1.
* Old Fashioned Electrometer Using Parametric up Conversion\nThese days you should just use a AD549
* ±1nA full scale
* ±1µA full scale
* ±100µA full scale
* Add for ±1µA full scale
* ±10µA full scale
* Add for ±100µA, ±1mA full scale
* ±100pA full scale
* ±100pA, ±1nA, ±10nA, ±100nA full scale
* ±10nA full scale
* ±100nA full scale
* Add for ±10µA full scale
* ±1mA full scale
* A 1% mismatch in J1, J2, J3, J4 capacitiances give a 6mV input offset and a 425mV output offset(4.25pA readout error) at ±100pA full scale range.\nQ1, Q2, Q3, Q4 require a low drive impedance lest the gain of the loop inverts at high input currents.
* ±10V full scale
* Trim to reduce\nerror to a\nfraction of 1pA
.lib LTC.lib
.backanno
.end
